Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Xylocaine Disposable Cannula / Novocain
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with history of ___ disease who
presented for evaluation of weakness. 

Patient called EMS, and they found her stating that she felt
"like she does not know what she is doing." She reported not
feeling well for the last 2 days. She was seen in the ED on 
___
for similar complaints. She is unable to provide much further
history; she states she feels lost and that she has had more
drooling, but denies pain anywhere.

Of note, she recently presented to ED on ___ with complaint
of weakness and excessive drooling after an episode of vomiting.
She was diagnosed with UTI and treated with 5 day course of
nitrofurantoin. She was seen by her HCP/sons who thought she was
at her usual baseline, and she was discharged home. 

 
Past Medical History:
-Invasive ductal carcinoma of the right breast, stage II, ER/PR  

positive, HER-2/neu negative. s/p mastectomy w/ flap 
reconstruction (___), s/p axillary lymph node dissection 
(___), now s/p two cycles  
of cycle two Cytoxan and Taxotere neoadjuvant chemo, last dose 
___  
-h/o DVT  
-___ Disease  
-Retinal Detachment  
-endometriosis with hysterectomy  
-h/o b/l DVT ___  
-hypothyroid s/p Total thyroidectomy for multinodular goiter  

 
Social History:
___
Family History:
Family history is positive for thyroid disease.  She has an 
uncle
with hyperthyroidism and an uncle with hypothyroidism
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS:  97.4PO, 118 / 72L Lying, 73, 16, 99 Ra 
GENERAL: Alert and interactive in bed, choreiform movements. In
no acute distress.
HEENT: NCAT. PERRL, tacky MM 
NECK: supple
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. no increased WOB. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash.
NEUROLOGIC: alert, interactive, stuttering speech at times,
choreiform movements mainly of BUE and head. 

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 909)
    Temp: 98.2 (Tm 99.5), BP: 117/75 (91-117/53-75), HR: 75
(67-91), RR: 18, O2 sat: 99% (97-99), O2 delivery: Ra, Wt: 120.9
lb/54.84 kg  

General: appears thin, no acute distress, unable to answer A&O
Lungs: clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: RRR, normal s1/s2, no murmurs
Abdomen: soft, nontender, nondistended
Ext: Warm, well perfused
Neuro: + chorea, A&Ox2 (oriented to person and place but not
time)
 
Pertinent Results:
ADMISSION LABS
===============

___ 01:40PM BLOOD WBC-3.4* RBC-4.24 Hgb-11.7 Hct-36.8 
MCV-87 MCH-27.6 MCHC-31.8* RDW-13.7 RDWSD-43.8 Plt ___
___ 01:40PM BLOOD Neuts-58.5 ___ Monos-6.1 Eos-1.5 
Baso-0.3 Im ___ AbsNeut-2.00 AbsLymp-1.14* AbsMono-0.21 
AbsEos-0.05 AbsBaso-0.01
___ 01:40PM BLOOD ___ PTT-26.6 ___
___ 01:40PM BLOOD Glucose-106* UreaN-10 Creat-0.7 Na-143 
K-4.4 Cl-105 HCO3-26 AnGap-12
___ 01:40PM BLOOD ALT-9 AST-16 AlkPhos-119* TotBili-0.4
___ 01:40PM BLOOD cTropnT-<0.01
___ 01:40PM BLOOD Albumin-4.2 Calcium-9.0 Phos-3.3 Mg-2.3
___ 01:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS
===============
___ 05:40AM BLOOD WBC-4.4 RBC-3.57* Hgb-9.6* Hct-31.3* 
MCV-88 MCH-26.9 MCHC-30.7* RDW-13.5 RDWSD-43.5 Plt ___
___ 05:40AM BLOOD Plt ___
___ 05:40AM BLOOD ___ PTT-23.5* ___
___ 05:40AM BLOOD Glucose-97 UreaN-24* Creat-0.6 Na-141 
K-4.7 Cl-103 HCO3-29 AnGap-9*
___ 05:40AM BLOOD Calcium-8.8 Phos-4.4 Mg-2.___RIEF HOSPITAL SUMMARY
======================
Ms. ___ is a ___ woman with ___ disease who 
presented with failure to thrive, weakness, and feeling "lost" 
at home. A metabolic and infectious workup were negative. 
Neurology evaluated the patient and felt her presentation was 
consistent with the progression of ___. Physical 
therapy, occupational therapy, nutrition, and speech and swallow 
evaluated the patient to help create a plan for safety at home. 
While rehab was recommended, given the patient has good family 
support at home and family is eager to take her home, ___ and OT 
educated them on how to care for her at home. She was discharged 
home with services and follow up with neurology.

ACUTE ISSUES
============
# FAILURE TO THRIVE
# WEAKNESS
# ___ DISEASE
Ms. ___ presented with vague symptoms of feeling weak, 
unwell, and "lost." Her neurologic symptoms are consistent with 
how we expect ___ Disease to progress. She is also 
likely deconditioned, and physical therapy and occupational 
therapy worked with the patient and her son to train them on 
skills needed to care for her properly at home. While they 
recommended discharge to rehab, the patient and her family 
preferred going home after training and with services. We also 
did a nutritional workup, and labs that have come back have all 
been within normal limits. Neurology evaluated the patient and 
determined no acute interventions were indicated at this time. 

# IATROGENIC HYPERTHYROIDISM
# MULTINODULAR GOITER
Ms. ___ was also found to have hyperthyroidism, which may be 
contributing to her anxiety and failure to thrive. Her 
levothyroxine was held during her admission. 

# LEUKOPENIA
WBC 3.8 on admission and downtrended slightly during her 
admission. No clear etiology and no evidence of infection. 
Thought to be secondary to her olanzapine.

TRANSITIONAL ISSUES
====================
[] Levothyroxine was held because TSH/T4 showed hyperthyroidism. 
We recommend retesting TSH/T4 in the outpatient setting and 
restarting levothyroxine, potentially at a lower dose first, as 
appropriate.
[] Our physical and occupational therapists recommended a 
discharge to rehab but the patient and her son were strongly in 
favor of going home with training and services. Ms. ___ may 
require ___ rehabilitation in the future if she continues 
to have functional decline. 
[] Ms. ___ is currently taking olanzapine 5mg nightly to 
help with weight gain and anxiety. According to a neurology note 
from ___, there was consideration to uptitrate this medication, 
which the patient may benefit from.
[] Speech and swallow recommended a video swallow study in the 
outpatient setting.
[] Consider switching from tetrabenazine to deutetrabenazine at 
future outpatient visits per neurology.

#CODE: full confirmed (with ___ 
#CONTACT: ___
Relationship: son
Phone number: ___

More than 30 minutes were spent preparing this discharge summary
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Levothyroxine Sodium 112 mcg PO DAILY 
2. tetrabenazine 25 mg oral BID 
3. OLANZapine 5 mg PO QHS 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Multi-Vitamin HP/Minerals]  1 
capsule(s) by mouth daily Disp #*90 Capsule Refills:*3 
2.  OLANZapine 5 mg PO QHS  
3.  tetrabenazine 25 mg oral BID  
4. HELD- Levothyroxine Sodium 112 mcg PO DAILY  This medication 
was held. Do not restart Levothyroxine Sodium until you talk to 
a doctor.
5.___
Dx: ___ ___ Disorder
Px: good
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY 
- failure to thrive 
- weakness 
- ___ disease 
- iatrogenic hyperthyroidism 
 
SECONDARY 
- multinodular goiter 
- leukopenia 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you felt weak at home.

WHAT HAPPENED IN THE HOSPITAL?
- Our neurologists saw you and felt that your symptoms were 
largely from a natural progression of your ___ Disease.
- Our occupational therapists, physical therapists, and speech 
and swallow therapists worked with you and your son to discuss 
how to safely get you home. While they recommended rehab, they 
understood that you and your son preferred to be home with 
services. 
- You had elevated thyroid hormone function so your thyroid 
replacement medication was held.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- Please go to your doctors' appointments as scheduled.
- Please continue to work with occupational therapy, physical 
therapy, and home nursing to improve your strength.
- Please puree all of your foods to minimize the risk of choking 
while eating. Someone should sit with you while you eat to help 
you eat slowly. 

We wish you the best!

Sincerely,
Your care team at ___
 
Followup Instructions:
___